US04022897
When 3-amino-4-picoline is subjected to diazotization in fluoboric acid as in Example I-1, there is obtained 3-fluoro-4-picoline. Treatment of the latter intermediate with sodium amide as in Example I-1, gives 2-amino-5-fluoro-4-picoline. Following the procedure of Example I-15, but substituting 2-nitramino-5-fluoro-4-picoline, there is obtained 2-amino-5-fluoro-4-methyl-3-pyridinol.

reactant | sodium amide | [NH2-].[Na+]
reactant | 2-amino-5-fluoro-4-picoline | NC1=NC=C(C(=C1)C)F | C6H7FN2
reactant | 2-nitramino-5-fluoro-4-picoline | N([N+](=O)[O-])C1=NC=C(C(=C1)C)F | C6H6FN3O2
product | 2-amino-5-fluoro-4-methyl-3-pyridinol | NC1=NC=C(C(=C1O)C)F | C6H7FN2O
